US04386073
2.1 g (4.32 mmoles) of Z-Glp-Leu-Pip-NH2 are dissolved in 40 ml of methanol. 0.2 g of a 10% palladium-on-carbon catalyst are added, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the residue is triturated with ether. The resulting crude product (1.48 g) is dissolved in 20 ml of water, the solution is decolourized, filtered, and 4 g of sodium chloride are dissolved in the clear filtrate. The aqueous solution is extracted thrice with 10 ml of chloroform, each. The chloroform solutions are combined, dried over anhydrous sodium sulfate, evaporated, and the amorphous residue is triturated with a mixture of ethyl acetate and ether. 1.33 g (87.5%) of Glp-Leu-Pip-NH2 are obtained; Rf5 =0.60, [α]D25 =-86.4° (c=1%, in acetic acid).

reactant | Z-Glp-Leu-Pip-NH2 | 4.32 mmoles, 2.1 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCCC1)C(=O)OCC1=CC=CC=C1 | C25H34N4O6
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Leu-Pip-NH2 | 1.33 g, 87.5% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)N)CCCC1 | C17H28N4O4
